US07829580B2
(e) (E)-3-{[1-(tert-Butoxycarbonyl)-5-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol
Sodium borohydride (300 mg) was added to a solution of (E)-3-{[1-(t-butoxycarbonyl)-5-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one (9.64 g) in ethanol (100 ml) at 0° C. After the mixture was stirred at the same temperature for 1.5 hours, the reaction was quenched by addition of a saturated aqueous ammonium chloride solution. The product was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. Evaporation of the solvent under reduced pressure followed by purification of the residue by silica gel chromatography using hexane, ethyl acetate, and dichloromethane (1:1:1) as eluent gave the title compound (7.7 g, yield: 80%) as a pale yellow amorphous solid.

reactant | Sodium borohydride | 300 mg | [BH4-].[Na+]
reactant | (E)-3-{[1-(t-butoxycarbonyl)-5-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-(triphenylmethyl)piperidin-4-one | 9.64 g | C(C)(C)(C)OC(=O)N1N=C(C=C1CC(=O)OCC)\C=C\1/CN(CCC1=O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H39N3O5
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (E)-3-{[1-(tert-Butoxycarbonyl)-5-(ethoxycarbonylmethyl)-1H-pyrazol-3-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | 7.7 g, yield: 80% | C(C)(C)(C)OC(=O)N1N=C(C=C1CC(=O)OCC)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C37H41N3O5
